US08076488B2
To a 0° C. solution of 1.4 M methyl magnesium bromide in toluene/THF (6.89 mL, 9.65 mmol) in anhydrous THF (8.77 mL) was added a solution of 4-chloro-N-methoxy-N-methylpyridine-2-carboxamide (1.06 g, 5.26 mmol) in anhydrous THF (8.77 mL). The reaction mixture was stirred at RT under N2 for 17 h. The volatile solvent was removed under reduced pressure, and partitioned between EtOAc and water. The organic layer was washed with H2O, brine, dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by MPLC (biotage) eluted with 10% EtOAc/Hex to afford 652 mg of 1-(4-chloropyridin-2-yl)ethanone (95.5%) as a white crystalline solid. 1H-NMR (Acetone-d6) δ 8.69 (d, J=5.4 Hz, 1H), 7.95 (dd, J=2.1, 1.0 Hz, 1H), 7.71 (dd, J=5.4, 2.1 Hz, 1H), 2.65 (s, 3H); TLC (10% EtOAc/Hex), Rf=0.26.

reactant | methyl magnesium bromide | 1.4 M | C[Mg]Br
reactant | toluene THF | 9.65 mmol, 6.89 mL | C1(=CC=CC=C1)C.C1CCOC1
reactant | 4-chloro-N-methoxy-N-methylpyridine-2-carboxamide | 5.26 mmol, 1.06 g | ClC1=CC(=NC=C1)C(=O)N(C)OC | C8H9ClN2O2
solvent | THF | 8.77 mL | C1CCOC1 | C4H8O
solvent | THF | 8.77 mL | C1CCOC1 | C4H8O
product | 1-(4-chloropyridin-2-yl)ethanone | 652 mg, 95.5% | ClC1=CC(=NC=C1)C(C)=O | C7H6ClNO
